US06420608B1
Preparation of 3-bromo-benzotrifluoride (educt)
3280 g of bromine are added to a mixture of 6046 g benzotrifluoride, 68 g FeCl3 and 2 g SiO2 at about 20° C. within ca. 2 hours. The reaction temperature is then slowly rised within ca. 7 hours to ca 40° C., 300 g water and 130 g Na2S2O3 are added and stirred for ca. 15 minutes. The phases are separated and the organic phase is destilled resulting in 4160 g bromo-benzotrifluoride (isomeric ratio 3:4=96:4) and 3290 g benzotrifluoride which is recycled.

reactant | bromine | 3280 g | BrBr | Br2
reactant | benzotrifluoride | 6046 g | C1(=CC=CC=C1)C(F)(F)F | C7H5F3
reactant | Na2S2O3 | 130 g | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | benzotrifluoride | 3290 g | C1(=CC=CC=C1)C(F)(F)F | C7H5F3
solvent | water | 300 g | O | H2O
product | 3-bromo-benzotrifluoride | BrC=1C=C(C=CC1)C(F)(F)F | C7H4BrF3
